US05356906
A mixture of 5.00 g (33 mmol) of ethyl isonicotinate, 6.12 g (33 mmol) of 2-bromoethylbenzene and 25 mL of 2-propanol were heated at reflux for 17 hours. The mixture was evaporated to dryness and triturated 3×75 mL with ether. The excess ether was removed by evaporation and there was obtained 8.91 g of 1-(2-phenylethyl)-4-carboethoxypyridinium bromide as a yellow solid. NMR (CDCl3) δ8.97 (d, 2H); 8.34 (d, 2H); 7.13-7.26 (m, 5H); 5.35-5.42 (m, 2H); 4.41-4.50 (q, 2H); 3.39-3.47 (t, 2H); 2.58-2.65 (m, 2H); 1.37-1.46 (t, 3H).

reactant | ethyl isonicotinate | 33 mmol, 5.00 g | C(C1=CC=NC=C1)(=O)OCC | C8H9NO2
reactant | 2-bromoethylbenzene | 33 mmol, 6.12 g | BrCCC1=CC=CC=C1 | C8H9Br
solvent | 2-propanol | 25 mL | CC(C)O | C3H8O
product | 1-(2-phenylethyl)-4-carboethoxypyridinium bromide | 8.91 g | [Br-].C1(=CC=CC=C1)CC[N+]1=CC=C(C=C1)C(=O)OCC | InChI=1S/C16H18NO2.BrH/c1-2-19-16(18)15-9-12-17(13-10-15)11-8-14-6-4-3-5-7-14;/h3-7,9-10,12-13H,2,8,11H2,1H3;1H/q+1;/p-1
